US05830892
Triethylorthoacetate (2.57 ml, 14 mmol) was added to a stirred, heated (75° C.) solution of methyl 3-amino-5-(trifluoromethyl)benzoate (the product of Description 1, step ii) (2.19 g, 10 mmol) in acetic acid (15 ml). The mixture was stirred at 75° C. for 45 minutes, then sodium azide (1.95 g, 30 mmol) was added in portions over 45 minutes. The mixture was stirred at 75° C. for 4 hours, cooled and poured into water (50 ml). The pH was adjusted to 7.0 with aqueous sodium hydroxide (4M) and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic fractions were washed with saturated aqueous sodium hydrogen carbonate (2×50 ml) and brine (50 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate/hexane (30:70 increasing to 60:40) to give methyl 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzoate as a yellow oil (1.62 g, 57%), 1H (CDCl3) δ 8.51 (1H, s), 8.36 (1H, s), 8.02 (1H, s), 4.03 (3H, s), and 2.71 (3H, s). m/z 287 (M+H+).

reactant | Triethylorthoacetate | 14 mmol, 2.57 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | methyl 3-amino-5-(trifluoromethyl)benzoate | NC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H8F3NO2
reactant | sodium azide | 30 mmol, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | 4M | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | methyl 3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)benzoate | 1.62 g, 57% | CC1=NN=NN1C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C11H9F3N4O2
